US07678787B2
Step A. 4-Chloro-o-tolyloxyacetic acid chloride
To a cold suspension of 4-chloro-o-tolyloxyacetic acid (17.4 mmol) in 40 mL of dry dichloromethane was added oxalyl chloride (39.15 mmol) followed by one drop of N,N-dimethylformamide. Bubbling began immediately. After 30 minutes the reaction mixture was warmed in a 45° C. oil bath for 1.5 hours. The solution was cooled to room temperature and all volatiles were removed by evaporation. Dry nitrogen gas was introduced into the evaporator and more dry dichloromethane was added. This was again evaporated in vacuo. Finally, dry toluene was added to the residue and this was evaporated at reduced pressure. The crude acid chloride was used without further purification in the following step.

reactant | 4-chloro-o-tolyloxyacetic acid | 17.4 mmol | ClC1=CC(=C(C=C1)C)OCC(=O)O | C9H9ClO3
reactant | oxalyl chloride | 39.15 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 4-Chloro-o-tolyloxyacetic acid chloride | ClC1=CC(=C(C=C1)C)OCC(=O)Cl | C9H8Cl2O2
